US08492548B2
Acetyl bromide (10 μl, 0.14 mmol) was added to a solution of (R)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (diastereomer 1 of I71) (70 mg, 0.13 mmol) in TEA (19.5 μl, 0.14 mmol) and DCM (3 ml). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and the crude product was purified first by trituration with Et2O, then by flash-chromatography (DCM/MeOH=95/5) and finally by preparative HPLC (eluents: CH3CN/H2O) to obtain (R)-1-(2-(4-acetoxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (24 mg, 31.9% yield).

reactant | Acetyl bromide | 0.14 mmol, 10 μl | C(C)(=O)Br | C2H3BrO
reactant | (R)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 0.13 mmol, 70 mg | [Br-].OC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O
reactant | DCM MeOH | C(Cl)Cl.CO
reactant | CH3CN H2O | CC#N.O
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | (R)-1-(2-(4-acetoxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 24 mg, 31.9% yield | [Br-].C(C)(=O)OC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C31H33N2O5.BrH/c1-22(34)37-27-14-12-23(13-15-27)28(35)20-33-18-16-24(17-19-33)29(21-33)38-31(36)30(25-8-4-2-5-9-25)32-26-10-6-3-7-11-26;/h2-15,24,29-30,32H,16-21H2,1H3;1H/q+1;/p-1/t24?,29-,30+,33?;/m0./s1
